US06936612B2
2-(Diethoxy-phosphoryl)-propionic acid ethyl ester (15.24 g, 64 mmol) was dissolved in tetrahydrofuran (100 mL) to which n-butyl lithium (47.7 mL, 119 mmol, 2.5 M in hexanes) was slowly added at −70° C. 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde (15 g, 63 mmol) was dissolved in tetrahydrofuran (70 mL) then added to the reaction mixture allowing the reaction to warm to −40° C. After 3 hours the reaction was warmed to room temperature, poured into cold 1 N citric acid and extracted with diethyl ether. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to give a yellow oil which was purified by silica gel chromatography. The resulting oil was dissolved to 1,8-diazabicyclo[5.4.0]undec-7-ene (75 mL) and heated to 150° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (350 mL), washed with 5% HCl and brine, dried over MgSO4, then filtered and concentrated in vacuo The remaining residue was diluted with diethyl ether and the precipitated solid was filtered off to give 8-cyclopentyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one as a white solid (6.33 g, 31.3%). 1H NMR δ (400 MHz, CDCl3) 8.52 (s, 1H), 7.39 (d, J=1.2 Hz, 1H), 5.96, (m, 1H), 2.59 (s, 3H), 2.30 (m, 2H), 2.19 (d, J=1.2 Hz, 3H), 2.07 (m, 2H), 1.86 (m, 2H), 1.67 (m, 2H).

reactant | 2-(Diethoxy-phosphoryl)-propionic acid ethyl ester | 64 mmol, 15.24 g | C(C)OC(C(C)P(=O)(OCC)OCC)=O | C9H19O5P
reactant | n-butyl lithium | 119 mmol, 2.5 M, 47.7 mL | C(CCC)[Li]
reactant | 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 63 mmol, 15 g | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
reactant | citric acid | 1 N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 8-cyclopentyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 6.33 g, 31.3% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)C)=O | C14H17N3OS
